Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ s/p fall
 
Major Surgical or Invasive Procedure:
___ Left craniectomy, Dr. ___

 
___ of Present Illness:
___ year old gentleman who was drinking last
evening when he subsequently fell down a flight of stairs. Per
report he was able to drive himself home and then today his
parents noticed he had right periorbital ecchymosis and was more
lethargic. He was taken to an OSH where imaging showed a left
sided SDH with midline shift of 6mm and a right temporal tip 
SDH.
he was also noted to have a right temporal bon fracture.  He was
then transferred to ___ for further management and care. Prior
to transfer he received keppra. Upon arrival he was noted to be
becoming more lethargic. A repeat CT head was done and it showed
grossly stable bleed but increased midline shift now measuring
approximately 1cm. 

 
Past Medical History:
ADHD, Closed head injury at age ___

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Exam on Admission:

Gen:lethargic WD/WN, comfortable, NAD.
HEENT: right periorbital ecchymosis, no battles sign Pupils:
PERRL        EOMs intact without nystagmus
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: lethargic, arousable to voice
Orientation: Oriented to self, hospital, ___, ___
Language: hypophonic.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. unable to test visual fields
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: unable to adequately assessed.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. follows simple commands
in all 4

Sensation: unable to adequately assess

DISCHARGE EXAM:

Gen:drowsy, but easily arousable 
HEENT: right periorbital ecchymosis, no battles sign 
Pupils: 2 brisk, bilaterally EOMs intact without nystagmus
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: lethargic, arousable to voice
Orientation: Oriented to self, hospital intermit. 
Language: hypophonic, preservative at times 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to
2mm bilaterally. unable to test visual fields
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: unable to adequately assessed.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. follows simple commands
in all 4, becomes easily frustrated

Craniotomy: incision is clean/dry/intact, no 
redness/swelling/drainage at time of discharge. 
 
Pertinent Results:
___ CT C spine
Alignment is normal. No fractures are identified.No evidence of 
spinal canal or neural foraminal stenosis.No prevertebral soft 
tissue swelling.No 
suspicious lytic or sclerotic lesion. No significant 
degenerative changes.  Scattered bilateral nonspecific cervical 
lymph nodes are enlarged and non-specific, likely reactive. 
Several enlarged left supraclavicular lymph nodes are also 
noted. The thyroid appears unremarkable. The upper lungs are 
clear. The mastoid air cells are clear.

___ NCHCT
1. Interval increase in size of left cerebral extra-axial 
hematoma with 
features of both subdural and epidural hematoma, previously 17 
mm, now 21 mm with 10 mm rightward shift of midline structures. 
Mild effacement of the suprasellar cistern is new from prior. 
2. Several foci of contusion in the left frontal, parietal and 
temporal lobes abutting the extra-axial collection. 
3. Stable small extra-axial collection along the right middle 
cranial fossa. 
4. Bilateral nondepressed skull fractures involving the right 
sphenoid and 
left temporoparietal. 

___ CXR
No acute intrathoracic process

___ NCHCT
1. Status post left frontal hemi craniectomy with evacuation of 
an epidural hematoma, and swelling of the left frontal lobe into 
the craniectomy defect. 
2. Stable right anterior temporal extra-axial hemorrhage. 
3. No midline shift or signs of herniation. 

___ CXR
No pleural effusion, consolidation or pneumothorax seen.

 

 
Brief Hospital Course:
___, the patient was transferred from an outside hospital 
after a fall over ___ hours prior to presenation. He was 
taken emergency to the operating room where he had a left 
hemicraniectomy and subdural hematoma evacuation. Post 
operatively, his elevated potassium was corrected.  

___, a repeat NCHCT was obtained which showed no MLS and 
swelling into craniectomy site. The amount of subdural blood was 
stable. The patient was successfully extubated. His chest x-ray 
as negative for any pneumonia in the setting of a leukocytosis. 

On ___, the patient remained neurologically stable on 
examination. His blood pressure was liberalized to less than 160 
and he was weaned off of the cardene gtt. His dressing was 
removed and his incision is clean, dry and intact with staples 
in place. A helmet was ordered. 

On ___, the patient remains neurologically stable. ___ 
consults were placed. Patient blood pressure continues to be 
elevated, however not requiring PRN medication. Will continue to 
monitor. Case management working on rehab placement. 

On ___, A possible BBB was noted on telemetry, the patient was 
asymptomatic and the neuro exam was improved.  A formal EKG was 
ordered and reviewed with the Medicine team and was negative. 
The serum K and magnesium were low and repleated. The patient 
was screen for ___ rehab and was accepted for discharge to 
rehab the following day.  The neurosurgery team met with the 
patients mother and updated her regarding the plan.

On ___, patient is neurologically and hemodynamically stable. 
Craniotomy site evaluated, staples are clean/dry/intact with no 
drainage/redness/swelling noted. Discussed with patients mother, 
and patient will be discharged to ___ today. 
 
Medications on Admission:
Adderol
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Bisacodyl 10 mg PR QHS:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC BID 
5. LeVETiracetam 1000 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
• You underwent a surgery called a craniectomy. A portion of 
your skull was removed to allow your brain to swell. You must 
wear a helmet when out of bed at all times.
• Please keep your staples along your incision dry until they 
are removed.
• It is best to keep your incision open to air but it is ok to 
cover it when outside. 
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
• You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
• Headache is one of the most common symptoms after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___